US20010000513A1
In a manner similar to Example 4, Step (b), 4-(4′-chloro-2′-fluoro-biphenyl-4-yl)-4-oxo-butyric acid, methyl ester (1.39 g, 0.00433 mol) was refluxed in 6 M hydrochloric acid to give 1.22 g of 4-(4′-chloro-2′-fluoro-biphenyl-4-yl)-4-oxo-butyric acid as a light purple solid; mp 127-129° C.

reactant | 4-(4′-chloro-2′-fluoro-biphenyl-4-yl)-4-oxo-butyric acid, methyl ester | 0.00433 mol, 1.39 g | ClC1=CC(=C(C=C1)C1=CC=C(C=C1)C(CCC(=O)OC)=O)F | C17H14ClFO3
solvent | hydrochloric acid | 6 M | Cl | ClH
product | 4-(4′-chloro-2′-fluoro-biphenyl-4-yl)-4-oxo-butyric acid | 1.22 g | ClC1=CC(=C(C=C1)C1=CC=C(C=C1)C(CCC(=O)O)=O)F | C16H12ClFO3
